US09216980B2
Step 5: 3-Bromo-5-ethyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
To a solution of 5-ethyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (48 mg, 0.21 mmol) in DMF (1 mL) was added NBS (54 mg, 0.30 mmol) then the reaction mixture was stirred for 18 h at ambient temperature. The reaction mixture was then diluted with ethyl acetate (20 mL) and washed with saturated aqueous sodium carbonate (10 mL). The aqueous phase was washed with DCM (2×10 mL), the combined organic phase was washed with saturated brine (2×10 mL) and concentrated in vacuo to afford the title compound as a yellow solid (50 mg, 79%). LCMS (Method B): RT=3.34 min, M+H+=301/303.

reactant | 5-ethyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.21 mmol, 48 mg | C(C)C1=C(N=CC2=C1C1=C(N2)N=CC=C1)C#N | C13H10N4
reactant | NBS | 0.30 mmol, 54 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-5-ethyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 50 mg, 79% | BrC1=CC2=C(NC3=C2C(=C(N=C3)C#N)CC)N=C1 | C13H9BrN4
